US07964594B1
Thieno[2,3-c]pyridine-7-carboxylic acid [3-((S)-2-amino-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The coupling of [(S)-4-(5-amino-2-fluoro-phenyl)-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-carbamic acid tert-butyl ester from experiment F (R3=Me) and thieno[2,3-c]pyridine-7-carboxylic acid followed by deprotection using procedure H yielded the title compound.

reactant | [(S)-4-(5-amino-2-fluoro-phenyl)-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1OCC[C@@](N1)(C)C1=C(C=CC(=C1)N)F)=O | C16H22FN3O3
reactant | thieno[2,3-c]pyridine-7-carboxylic acid | S1C=CC=2C1=C(N=CC2)C(=O)O | C8H5NO2S
product | Thieno[2,3-c]pyridine-7-carboxylic acid [3-((S)-2-amino-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OCC[C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C=1N=CC=C2C1SC=C2 | C19H17FN4O2S
